US08563565B2
(2) Synthesis of 1-(1,4-dioxepan-6-yl)-7-(2-methoxy-4,6-dimethylpyridin-3-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one
Iron powder (17 mg) was added to a solution of ethyl 1-(1,4-dioxepan-6-yl)-5-{4-(2-methoxy-4,6-dimethylpyridin-3-yl)-2-nitrophenyl}-1H-pyrazole-4-carboxylate (15 mg) in acetic acid (1 mL)-water (0.05 mL), and the mixture was stirred at 80° C. for 4.25 hours in a nitrogen atmosphere. The reaction mixture was returned to room temperature, and ethyl acetate (5 mL) was added to the reaction mixture. The insoluble matter was removed by filtration through Celite™. The filtrate was concentrated under reduced pressure. A solution of the residue in ethyl acetate was sequentially washed with a saturated aqueous sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by preparative thin-layer chromatography (silica gel, ethyl acetate/n-heptane, 66%) to give the title compound (1.5 mg).

reactant | ethyl 1-(1,4-dioxepan-6-yl)-5-{4-(2-methoxy-4,6-dimethylpyridin-3-yl)-2-nitrophenyl}-1H-pyrazole-4-carboxylate | 15 mg | O1CCOCC(C1)N1N=CC(=C1C1=C(C=C(C=C1)C=1C(=NC(=CC1C)C)OC)[N+](=O)[O-])C(=O)OCC | C25H28N4O7
reactant | water | 0.05 mL | O | H2O
reactant | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
catalyst | Iron | 17 mg | [Fe] | Fe
product | 1-(1,4-dioxepan-6-yl)-7-(2-methoxy-4,6-dimethylpyridin-3-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | 1.5 mg | O1CCOCC(C1)N1N=CC=2C(NC=3C=C(C=CC3C21)C=2C(=NC(=CC2C)C)OC)=O | C23H24N4O4
